US07645773B2
2-(2-Fluoro-6-methoxy-phenyl)-thiazole-4-carboxylic acid (49.5 mg, 0.2 mmol) from the previous step, trans-decahydro-isoquinoline (TCI America, Portland, Oreg.; 27.8 mg, 0.2 mmol), DIPEA (0.1 mL, 0.57 mmol), and PyBrop (103 mg, 0.22 mmol) were mixed in dry DCM (1 mL) and the mixture was left stirring for overnight at room temperature. To the mixture was added water. The DCM layer was separated and the aqueous layer was extracted with DCM twice. The combined DCM layers were dried under vacuum and purified by C-18 reversed phase HPLC with a gradient of 10-100% Acetonitrile/water to give [2-(2-fluoro-6-methoxy-phenyl)-thiazol-4-yl]-(2-methyl-piperidin-1-yl)-methanone (12 mg, 16%).

reactant | 2-(2-Fluoro-6-methoxy-phenyl)-thiazole-4-carboxylic acid | 0.2 mmol, 49.5 mg | FC1=C(C(=CC=C1)OC)C=1SC=C(N1)C(=O)O | C11H8FNO3S
reactant | trans-decahydro-isoquinoline | 0.2 mmol, 27.8 mg | C1NCC[C@@H]2CCCC[C@@H]12 | C9H17N
reactant | DIPEA | 0.57 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBrop | 0.22 mmol, 103 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | [2-(2-fluoro-6-methoxy-phenyl)-thiazol-4-yl]-(2-methyl-piperidin-1-yl)-methanone | 12 mg, 16% | FC1=C(C(=CC=C1)OC)C=1SC=C(N1)C(=O)N1C(CCCC1)C | C17H19FN2O2S
